US09376420B2
Step 3: 4,4,5,5,5-pentafluoro-1-(4′-methylsulfanyl-biphenyl-3-yl)-pent-1-en-3-one
To a saturated solution of pentafluoroiodoethane (0.84 M, in diethyl ether) (200.9 mL, 168.8 mmol), was slowly added a solution of methyllithium/lithium bromide (1.5 M, in diethyl ether) (112.5 mL, 168.8 mmol) under nitrogen atmosphere at −78° C. The reaction mixture was stirred for 20 minutes and then a solution of N-methoxy-N-methyl-3-(4′-methylsulfanyl-biphenyl-3-yl)-acrylamide (17.6 g, 56.3 mmol, in tetrahydrofuran 20.0 mL) prepared in Step 2 was slowly added thereto at −78° C. The reaction mixture was stirred at room temperature, quenched with distilled water, acidified by a 10% potassium hydrogen sulfate solution (pH=5), and then extracted with diethyl ether three times. The combined extract was washed with a saturated solution of sodium hydrogen carbonate, dried on anhydrous magnesium sulfate, and then concentrated under reduced pressure to give a yellow liquid residue. The resulting residue was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/30) to give 16.4 g of the titled compound as a yellow solid.

reactant | pentafluoroiodoethane | 168.8 mmol, 0.84 M, 200.9 mL | FC(C(I)(F)F)(F)F | C2F5I
reactant | methyllithium lithium bromide | 168.8 mmol, 1.5 M, 112.5 mL | C[Li].[Br-].[Li+]
reactant | N-methoxy-N-methyl-3-(4′-methylsulfanyl-biphenyl-3-yl)-acrylamide | 56.3 mmol, 20.0 mL, 17.6 g | CON(C(C=CC=1C=C(C=CC1)C1=CC=C(C=C1)SC)=O)C | C18H19NO2S
product | 4,4,5,5,5-pentafluoro-1-(4′-methylsulfanyl-biphenyl-3-yl)-pent-1-en-3-one | 16.4 g | FC(C(C=CC=1C=C(C=CC1)C1=CC=C(C=C1)SC)=O)(C(F)(F)F)F | C18H13F5OS
